US04921962
Di-[1-(alpha-methylbenzyloxy)-2,2,6,6-tetramethylpiperidine-4-yl] Sebacate
A mixture of 40.0 g (83 mmol) of di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate, 2.0 g of molybdenum trioxide, and 250 ml of ethylbenzene is heated to 110° C. (nitrogen atmosphere). A commercially available solution of 70% t-butyl hydroperoxide in water (64.3 g, 499 mmol) is added dropwise over 30 min. Water is collected in a Dean-Stark trap. Heating is continued for 90 minutes after the addition. The reaction mixture is filtered and evaporated. The resulting crude oil is dissolved in heptane (300 ml), and this solution is passed through a short column of silica gel. The first 350 ml of filtrate, nearly pure by TLC, is evaporated to give 41.7 g (70% yield) of the title compound, a viscous oil.

reactant | di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 83 mmol, 40.0 g | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | water | 499 mmol, 64.3 g | O | H2O
reactant | ethylbenzene | 250 ml | C(C)C1=CC=CC=C1 | C8H10
catalyst | molybdenum trioxide | 2.0 g | [Mo](=O)(=O)=O
product | Di-[1-(alpha-methylbenzyloxy)-2,2,6,6-tetramethylpiperidine-4-yl] Sebacate | 41.7 g, 70% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C)(=O)OC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C44H68N2O6
